US06498251B1
Synthesis Example 20c 4,5,6,7-Tetrahydro-3H-imidazo[4,5-c]pyridine Dihydrochloride Monohydrate
Histamine dichloride (5.0 g, 27 1 mol) was dissolved in concentrated hydrochloric acid (20 ml), dimethoxymethane (7.0 ml, 79 mmol) was added dropwise to the solution, and the mixture was stirred overnight at 100° C. By evaporating the solvent from the reaction solution and purifying the thus obtained crystals by their recrystallization from methanol, 4.6 g (22 mmol, 79% in yield) of the title compound was obtained.

reactant | Histamine dichloride | 1 mol, 5.0 g | [Cl-].[Cl-].NCCC1=CNC=N1
reactant | dimethoxymethane | 79 mmol, 7.0 ml | COCOC | C3H8O2
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | 4,5,6,7-Tetrahydro-3H-imidazo[4,5-c]pyridine Dihydrochloride Monohydrate | O.Cl.Cl.N1=CNC=2CNCCC21 | InChI=1S/C6H9N3.2ClH.H2O/c1-2-7-3-6-5(1)8-4-9-6;;;/h4,7H,1-3H2,(H,8,9);2*1H;1H2
